US08389508B2
To a solution of 1,3-dibromo-2-methylbenzene (3 g, 12.00 mmol) in Tetrahydrofuran (THF) (100 mL) stirred under nitrogen at −78° C. was added BuLi (9.00 mL, 14.40 mmol) dropwise. The reaction mixture was stirred at −78° C. for 20 min. DMF (1.115 mL, 14.40 mmol) was added dropwise. The reaction mixture was continuously stirred for 2 hours. The reaction was quenched with sat. aq. ammonia chloride solution. The aqueous layers were separated and extracted by EA for 3 times. The combined organic layers were washed by brine, dried over anhydrous sodium sulfate. The dried solution was concentrated in vacuo to afford 3-bromo-2-methylbenzaldehyde (D93) (2.4 g), which was used for the next step without further purification. MS (ES): C8H7BrO requires 197.9. found 199 (M+H+)

reactant | 1,3-dibromo-2-methylbenzene | 12.00 mmol, 3 g | BrC1=C(C(=CC=C1)Br)C | C7H6Br2
reactant | BuLi | 14.40 mmol, 9.00 mL | [Li]CCCC
reactant | DMF | 14.40 mmol, 1.115 mL | CN(C)C=O | C3H7NO
solvent | Tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | 3-bromo-2-methylbenzaldehyde | 2.4 g | BrC=1C(=C(C=O)C=CC1)C | C8H7BrO
